US07358370B2
4-(6,6-Dimethyl-4-oxo-3-difluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide (Compound 26)
To a solution/suspension of 4-(6,6-dimethyl-4-oxo-3-difluoromethyl-4,5,6,7-tetrahydro-indazol-1-yl)-2-(tetrahydropyran-4-ylamino)-benzonitrile (897 mg, 2.16 mmol, 1.0 eq) in 10.8 mL of 4:1 mixture of ethanol-dimethyl sulfoxide was added 1 mL of 1 M aqueous sodium hydroxide and 1 mL of 30% hydrogen peroxide. After 30 minues the reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound, 4-(6,6-dimethyl-4-oxo-3-difluoromethyl-4,5,6,7-tetrahydro-indazol-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide, (869 mg, 93%) as a tan solid: LC/MS (m/z): [M+H]+ 433.3.

reactant | 4-(6,6-dimethyl-4-oxo-3-difluoromethyl-4,5,6,7-tetrahydro-indazol-1-yl)-2-(tetrahydropyran-4-ylamino)-benzonitrile | 2.16 mmol, 897 mg, 1.0 eq | CC1(CC(C=2C(=NN(C2C1)C1=CC(=C(C#N)C=C1)NC1CCOCC1)C(F)F)=O)C | C22H24F2N4O2
reactant | ethanol dimethyl sulfoxide | C(C)O.CS(=O)C
reactant | sodium hydroxide | 1 M, 1 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 1 mL | OO | H2O2
solvent | water | O | H2O
product | 4-(6,6-dimethyl-4-oxo-3-difluoromethyl-4,5,6,7-tetrahydro-indazol-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide | 869 mg, 93% | CC1(CC(C=2C(=NN(C2C1)C1=CC(=C(C(=O)N)C=C1)NC1CCOCC1)C(F)F)=O)C | C22H26F2N4O3
